* Z:\mnt\design.r\spice\examples\3579-1.asc
V1 IN 0 5
L1 IN N002 2.2µ Rser=1.5m
D1 N002 N003 1N5818
C1 N003 0 10µ Rser=5m
R1 N003 N004 130K
R2 N003 N001 6.3K
M§Q1 OUT N001 N003 N003 Si4427DY
R3 N008 0 86.6K
C2 N009 0 .02µ
R4 IN N006 100K
R5 N005 0 10K
R6 IN N005 18.7K
C3 N007 0 2200p Rser=8K Cpar=47p
C4 OUT 0 10µ Rser=5m
D2 IN N001 MBR0520L
Rload OUT 0 7
XU1 N004 N007 N001 N006 IN N002 MP_01 MP_02 N002 MP_03 MP_04 MP_05 N005 N008 N009 MP_06 0 LT3579
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LT3579.sub
.backanno
.end
